US07906649B2
Step A: 2-(2,2,2-Trifluoroethoxy)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine
To a solution of the tert-butyl 2-(methylsulfonyl)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate (300 mg) in dry acetonitrile (20 mL), 2,2,2-trifluoroethanol (1.8 mL) and cesium carbonate (815 mg) were added. The resulting mixture was stirred at room temperature for 1 h. The precipitate was removed by filtration. The solution was evaporated, and the resulting residue was purified on a Biotage Horizon® system (silica, gradient 35-65% ethyl acetate in hexanes). After concentration, tert-butyl 2-(2,2,2-trifluoroethoxy)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate was treated with HCl (4M in methanol) for 1 h. The residue was passed through an ion exchange resin (Strata-X-C™) and eluted with methanol containing 10% ammonium hydroxide to yield 2-(2,2,2-trifluoroethoxy)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine as the title compound. LC/MS 220.0 (M+1).

reactant | tert-butyl 2-(methylsulfonyl)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate | 300 mg | CS(=O)(=O)C=1N=CC2=C(N1)CN(C2)C(=O)OC(C)(C)C | C12H17N3O4S
reactant | cesium carbonate | 815 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethanol | 1.8 mL | FC(CO)(F)F | C2H3F3O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(2,2,2-Trifluoroethoxy)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | FC(COC=1N=CC2=C(N1)CNC2)(F)F | C8H8F3N3O
